US07420056B2
420 mg (1.2 mmol) of [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-tert-butyl-amine were dissolved together with 0.33 ml (3.0 mmol) of phenylacetylene, 42 mg (0.06 mmol) of bis(triphenylphosphine)-palladium(II) chloride and 22 mg (0.12 mmol) of copper(I) iodide in DMF (9 ml). After addition of 1.6 ml (12.0 mmol) of triethylamine, the mixture was stirred at 50° C. for 16 h. The reaction solution was then diluted with EA and combined with a sat. aq. sodium carbonate solution. The phases were separated and the aqueous phase extracted with EA. The combined organic phases were washed 2× with a sat. aq. sodium carbonate solution and 2× with a sat. aq. common salt solution and dried over magnesium sulfate. After filtration and removal of the solvents under a vacuum, column chromatography (EA/DCM 1:4) was carried out with the group, after which 326 mg (0.88 mmol, 73% of theoretical) of tert-butyl-[2-(5-phenylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-amine were obtained.

reactant | [2-(5-bromothiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-tert-butyl-amine | 1.2 mmol, 420 mg | BrC1=CC=C(S1)C=1N=C2N(C=CN=C2)C1NC(C)(C)C | C14H15BrN4S
reactant | phenylacetylene | 3.0 mmol, 0.33 ml | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 12.0 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.06 mmol, 42 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.12 mmol, 22 mg | [Cu]I
product | tert-butyl-[2-(5-phenylethynyl-thiophen-2-yl)-imidazo[1,2-a]pyrazin-3-yl]-amine | 0.88 mmol, 326 mg, 73% | C(C)(C)(C)NC1=C(N=C2N1C=CN=C2)C=2SC(=CC2)C#CC2=CC=CC=C2 | C22H20N4S
